US04153607
27.1 parts of 2-ethylmercapto-4-amino-5-thiocarbamoylthiazole are reacted with 270 parts of sulfuric acid and 0.5 part of bromine as described in Example 1(b). 23.4 parts of 3-amino-5-ethylmercapto-thiazolo-(4,5-c)-isothiazole (87% of theory) of melting point 131°-134° C. are obtained.

reactant | 2-ethylmercapto-4-amino-5-thiocarbamoylthiazole | C(C)SC=1SC(=C(N1)N)C(N)=S | C6H9N3S3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | bromine | BrBr | Br2
product | 3-amino-5-ethylmercapto-thiazolo-(4,5-c)-isothiazole | 87% | NC1=C2C(=NS1)N=C(S2)SCC | C6H7N3S3
